US07601714B2
5-fluoro-N4-[(trans-4-pyrrolidin-1-ylcyclohexyl)methyl]-N2-[2-(trifluoromethoxy)benzyl]pyrimidine-2,4-diamine
N4-[(trans-4-aminocyclohexyl)methyl]-5-fluoro-N2-[2-(trifluoromethoxy)benzyl]pyrimidine-2,4-diamine (71 mg, 0.17 mmol) was dissolved in DMA (2 mL). To this solution was added 1,4-dibromobutane (81 μL, 0.68 mmol) and NaCO3 (72 mg, 0.68 mmol). The reaction was heated in the microwave at 100° C. for 20 min. The volatiles were removed and the reaction was diluted with EtOAc and poured into H2O. The aqueous phase was separated and extracted two more times with EtOAc. The organic layers were combined, dried (Na2SO4), decanted and concentrated. The crude product was purified by twice running on a 1000 micron SiO2 Prep TLC plate, eluting with 10:1 CH2Cl2:MeOH (1% NH4OH) to afford 36 mg (45%) of the title compound, m/z 468.6 [M+1]+.

reactant | N4-[(trans-4-aminocyclohexyl)methyl]-5-fluoro-N2-[2-(trifluoromethoxy)benzyl]pyrimidine-2,4-diamine | 0.17 mmol, 71 mg | N[C@@H]1CC[C@H](CC1)CNC1=NC(=NC=C1F)NCC1=C(C=CC=C1)OC(F)(F)F | C19H23F4N5O
reactant | 1,4-dibromobutane | 0.68 mmol, 81 μL | BrCCCCBr | C4H8Br2
solvent | DMA | 2 mL | CC(=O)N(C)C | C4H9NO
product | 5-fluoro-N4-[(trans-4-pyrrolidin-1-ylcyclohexyl)methyl]-N2-[2-(trifluoromethoxy)benzyl]pyrimidine-2,4-diamine | 36 mg, 45% | FC=1C(=NC(=NC1)NCC1=C(C=CC=C1)OC(F)(F)F)NC[C@@H]1CC[C@H](CC1)N1CCCC1 | C23H29F4N5O
